US08017780B1
(2S)-1-[4-(2-{4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-2-hydroxypropan-1-one
To a solution of (2S)-1-[4-(2-{4-amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-1-oxopropan-2-yl acetate (300 mg, 0.50 mmol) in MeOH (5 mL) was added K2CO3 (140 mg, 0.01 mmol) and the resulting mixture was stirred for 6 h at room temperature. After the completion of reaction, solids were collected by filtration, washed with water and dried to give the title product. 1H NMR (DMSO-d6) δ; 7.71 (d, J=5.8 Hz, 1H), 7.37 (s, 1H), 6.79 (d, J=5.8 Hz, 1H), 6.67 (s, 1H), 6.39 (s, 2H), 6.07 (s, 2H), 5.30-5.40 (m, 1H), 4.15-4.3 (m, 3H), 3.74 (brd, J=13.2 Hz, 1H), 2.88-3.0 (m, 1H), 2.40-2.55 (m, 1H), 1.62-1.76 (m, 2H), 1.45-1.58 (m, 3H), 1.26 (t, J=8.2 Hz, 3H), 0.87-1.18 (m, 2H); TOF-MS [M+H]+ 550.0915.

reactant | (2S)-1-[4-(2-{4-amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-1-oxopropan-2-yl acetate | 0.50 mmol, 300 mg | C(C)(=O)O[C@H](C(=O)N1CCC(CC1)CCN1C(=NC=2C(=NC=CC21)N)SC2=CC1=C(OCO1)C=C2Br)C | C25H28BrN5O5S
reactant | K2CO3 | 0.01 mmol, 140 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | (2S)-1-[4-(2-{4-Amino-2-[(6-bromo-1,3-benzodioxol-5-yl)sulfanyl]-1H-imidazo[4,5-c]pyridin-1-yl}ethyl)piperidin-1-yl]-2-hydroxypropan-1-one | NC1=NC=CC2=C1N=C(N2CCC2CCN(CC2)C([C@H](C)O)=O)SC2=CC1=C(OCO1)C=C2Br | C23H26BrN5O4S
